US08247403B2
(3) 9-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-ethyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (260 mg, 0.937 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (166 mg, 83.0%) as a solid.

reactant | tert-butyl 9-ethyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.937 mmol, 260 mg | C(C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C16H23NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 166 mg, 83.0% | Cl.C(C)C1=CC=CC=2CNCCOC21 | InChI=1S/C11H15NO.ClH/c1-2-9-4-3-5-10-8-12-6-7-13-11(9)10;/h3-5,12H,2,6-8H2,1H3;1H
